US08357635B2
Preparation of trans-N-{1-[2-(2,6-dichlorophenyl)-cyclopropyl]-ethyl}-O-methyl-hydroxylamine
A solution of 1-[2-(2,6-dichloro-phenyl)-cyclopropyl]-ethanone O-methyl-oxime (300 mg, 1.16 mmol), prepared as described in example P22, in ethanol (2 ml) and acetic acid (1 ml) was treated at ambient temperature with sodium cyanoborohydride (144 mg, 2.32 mmol) added in one portion. The resulting solution was stirred at ambient temperature for 10 hours. The solvent was evaporated under reduced pressure (co-evaporation with toluene twice) and the residue was slurried with 1 M NaOH (15 ml). The aqueous phase was extracted with ether (3×10 ml), washed with brine and dried over anhydrous Na2SO4. After removal of the solvent, the residue was purified by flash chromatography over silica gel (15 g) (eluent: c-hexane/ethyl acetate 3:1). 260 mg (89.0% of theory) of trans-N-{1-[2-(2,6-dichlorophenyl)-cyclopropyl]-ethyl}-O-methyl-hydroxylamine as a mixture of diastereomeres was obtained in form of a clear liquid.

reactant | 1-[2-(2,6-dichloro-phenyl)-cyclopropyl]-ethanone O-methyl-oxime | 1.16 mmol, 300 mg | CON=C(C)C1C(C1)C1=C(C=CC=C1Cl)Cl | C12H13Cl2NO
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 2.32 mmol, 144 mg | C(#N)[BH3-].[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | trans-N-{1-[2-(2,6-dichlorophenyl)-cyclopropyl]-ethyl}-O-methyl-hydroxylamine | ClC1=C(C(=CC=C1)Cl)[C@H]1[C@@H](C1)C(C)NOC | C12H15Cl2NO
